US07009057B2
A solution of 4-(2-(5-ethyl-2-pyridyl)ethoxy)nitrobenzene (23 g) in methanol is hydrogenated under atmospheric pressure in the presence of 10% Pd on carbon (50% humid, 2.5 g). The catalyst is removed by filtering. Distilling the solvent off under reduced pressure gives 4-(2-(5-ethyl-2-pyridyl)ethoxy)aniline as crude oil (20 g, 98%).

reactant | 4-(2-(5-ethyl-2-pyridyl)ethoxy)nitrobenzene | 23 g | C(C)C=1C=CC(=NC1)CCOC1=CC=C(C=C1)[N+](=O)[O-] | C15H16N2O3
solvent | methanol | CO | CH4O
catalyst | Pd on carbon | 2.5 g | [Pd] | Pd
product | 4-(2-(5-ethyl-2-pyridyl)ethoxy)aniline | C(C)C=1C=CC(=NC1)CCOC1=CC=C(N)C=C1 | C15H18N2O
